US03996241
Preparation of 5-Chloro-4-methyl-2-hydroxymethylindole
240 ml. anhydrous tetrahydrofuran and 3.5 g. lithium aluminium hydride were placed in a 1 liter three-necked flask equipped with a stirrer, dropping funnel and reflux condenser provided with a calcium chloride tube. A solution of 6.5 g. 5-chloro-4-methyl-indole-2-carboxylic acid in 100 ml. anhydrous tetrahydrofuran was then slowly added thereto dropwise, while stirring at ambient temperature, whereafter the reaction mixture was heated to 50° C. for 2 hours. After cooling, 4.7 ml. water were added very slowly and carefully thereto dropwise and precipitated inorganic compounds were filtered off with suction and then thoroughly washed with tetrahydrofuran. The combined solutions were evaporated and the oily residue was dissolved in a little diethyl ether, mixed with ligroin and, after rubbing with a glass rod, brought to crystallization. There were thus obtained 3.6 g. (59% of theory) 5-chloro-4-methyl-2-hydroxymethyl -indole which can be recrystallized from toluene, with the use of active charcoal. The product had a melting point of 108° C.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-chloro-4-methyl-indole-2-carboxylic acid | ClC=1C(=C2C=C(NC2=CC1)C(=O)O)C | C10H8ClNO2
solvent | water | O | H2O
product | 5-Chloro-4-methyl-2-hydroxymethylindole | ClC=1C(=C2C=C(NC2=CC1)CO)C | C10H10ClNO
